use $batchmode

* use $batchmode variable to steer control flow
*
* start either with
*    ngspice -b -r rawfile.raw if-batchmode.cir
* or with
*    ngspice if-batchmode.cir

v0  1 0  dc 1
R1  1 2  1k
C1  2 0  1u

.tran 100u 10m uic
.print tran all

.control

if $?batchmode
  echo "Info: batchmode has been set by command line option -b"
  echo
else
  echo "Info: batchmode has not been set"
  echo
  unset ngdebug
  tran 100u 10m uic
  plot v(2)
end

.endc
.end
